US06534496B1
2-Formyl-2,3,4,5-tetrahydro-1H-2-benzazepine
Acetic anhydride (20 ml) was added dropwise to formic acid (60 ml) at room temperature and after the mixture was stirred for 30 minutes, a solution of 2,3,4,5-tetrahydro 1H-2-benzazepine (10.71 g, 72.75 mmol) in ethyl acetate (5 ml) was added dropwise at room temperature. This mixture was stirred for 3 hours, after which it was diluted with ice-water and extracted with ethyl acetate. The extract was washed successively with water, aqueous solution of potassium carbonate (K2CO3), and saturated NaCl/H2O and dried over MgSO4. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluent: ethyl acetate) to provide the title compound (11.35 g) as colorless oil.

reactant | Acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 60 ml | C(=O)O | CH2O2
reactant | 2,3,4,5-tetrahydro 1H-2-benzazepine | 72.75 mmol, 10.71 g | C1NCCCC2=C1C=CC=C2 | C10H13N
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-Formyl-2,3,4,5-tetrahydro-1H-2-benzazepine | 11.35 g | C(=O)N1CC2=C(CCC1)C=CC=C2 | C11H13NO
